US06875781B2
To a solution of 4-chloro-pyridine-2,6-dicarboxylic acid diethyl ester (700 mg, 2.8 mmol), 5-chloro-2-methoxy-phenylboronic acid (630 mg, 3.4 mmol), palladium acetate (105 mg, 0.47 mmol) in ethylene glycol dimethyl ether (50 ml), degassed with argon, was added a solution of sodium carbonate (868 mg, 8.2 mmol) in water (5 ml) followed by triphenylphosphine (220 mg, 0.84 mmol). The mixture was stirred at 80° C. for 3 hours and filtered through a pad of celite under suction. The filtrate was purified by flash chromatography on silica gel eluting with ethyl acetate-hexane (1:3 followed by 1:2) to give 4-(5-chloro-2-methoxy-phenyl)-pyridine-2,6-dicarboxylic acid diethyl ester (755 mg, 74% yield) as a white solid. 1H NMR (acetone-d6) δ 1.42 (t, 6H, J=7.1 Hz CH3), 3.92 (s, 3H, CH3), 4.45 (q, 4H, J=7.1 Hz, CH2), 7.27 (d, 1H, J=8.9 Hz, Ar), 7.52 (dd, 1H J=8.8 Hz, J=2.7 Hz, Ar), 7.56 (d, 1H, J=2.7 Hz, Ar), 8.43 (s, 2H, Ar).

reactant | 4-chloro-pyridine-2,6-dicarboxylic acid diethyl ester | 2.8 mmol, 700 mg | C(C)OC(=O)C1=NC(=CC(=C1)Cl)C(=O)OCC | C11H12ClNO4
reactant | 5-chloro-2-methoxy-phenylboronic acid | 3.4 mmol, 630 mg | ClC=1C=CC(=C(C1)B(O)O)OC | C7H8BClO3
reactant | sodium carbonate | 8.2 mmol, 868 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | triphenylphosphine | 0.84 mmol, 220 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ethylene glycol dimethyl ether | 50 ml | COCCOC | C4H10O2
solvent | water | 5 ml | O | H2O
catalyst | palladium acetate | 0.47 mmol, 105 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(5-chloro-2-methoxy-phenyl)-pyridine-2,6-dicarboxylic acid diethyl ester | 755 mg, 74% yield | C(C)OC(=O)C1=NC(=CC(=C1)C1=C(C=CC(=C1)Cl)OC)C(=O)OCC | C18H18ClNO5
